US06114390
d) (R)-N-[[4-(Aminocarbonyloxymethyl)phenyl]methyl]-N2 -(diphenylacetyl)-argininamide-acetate
0.7 g (1.216 mMol) of (R)-N-[[4-(Aminocarbonyloxymethyl)-phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)ornithinamide were dissolved in 50 ml of 60% aqueous formic acid, mixed with 2.7 g (11.97 mMol) of tin(II)-chloride-dihydrate and heated to +50° C. for 10 minutes. 20 ml of formic acid were added and the mixture was maintained at +50° C. for a further 72 hours. It was evaporated down in vacuo. the residue was taken up in methanol and filtered to remove the insoluble matter. It was evaporated down once more, the residue remaining was taken up in saturated aqueous soda solution and suction filtered. The crystals were treated once more with methanol, then filtered, the filtrate was evaporated down and carefully freed from any accompanying matter by column chromatography on silica gel (Baker; 0.03-0.06 mm) using ethyl acetate/methanol/glacial acetic acid=70/30/1 (v/v/v) as eluant. 40 mg (5.6% of theory) of a colourless, glassy-amorphous substance were obtained.

reactant | (R)-N-[[4-(Aminocarbonyloxymethyl)-phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)ornithinamide | 1.216 mMol, 0.7 g | NC(=O)OCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=N[N+](=O)[O-])N)=O | C29H33N7O6
reactant | tin(II)-chloride-dihydrate | 11.97 mMol, 2.7 g | O.O.[Sn](Cl)Cl
solvent | formic acid | 50 ml | C(=O)O | CH2O2
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | (R)-N-[[4-(Aminocarbonyloxymethyl)phenyl]methyl]-N2 -(diphenylacetyl)-argininamide acetate | NC(=O)OCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(N)=N)=O.C(C)(=O)[O-] | InChI=1S/C29H34N6O4.C2H4O2/c30-28(31)33-17-7-12-24(26(36)34-18-20-13-15-21(16-14-20)19-39-29(32)38)35-27(37)25(22-8-3-1-4-9-22)23-10-5-2-6-11-23;1-2(3)4/h1-6,8-11,13-16,24-25H,7,12,17-19H2,(H2,32,38)(H,34,36)(H,35,37)(H4,30,31,33);1H3,(H,3,4)/p-1/t24-;/m1./s1
